US07091362B2
200 g of 4-chlorobenzonitrile, 101.4 g of potassium fluoride, 25 g of dimethyl sulfoxide, and 5.60 g of (N,N-dimethylimidazolidino)tetramethyl-guanidinium chloride were placed in a 1 liter 4-neck flask equipped with anchor stirrer, thermometer, and reflux condenser with bubble counter. The mixture was then heated with stirring to 180° C. and this temperature was maintained for 16 hours. The mixture was then cooled to room temperature, water was added to the reaction mixture in a volumetric ratio of 1:1, and the mixture was extracted with diethyl ether. After washing, concentration, and drying the separated organic phase, 4-fluorobenzo-nitrile was isolated in a yield of 75%.

reactant | 4-chlorobenzonitrile | 200 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | potassium fluoride | 101.4 g | [F-].[K+]
solvent | dimethyl sulfoxide | 25 g | CS(=O)C | C2H6OS
product | 4-fluorobenzo-nitrile | yield of 75% | FC1=CC=C(C#N)C=C1 | C7H4FN
